US04927838
Potassium t-butoxide (1.03 g) was added to a solution of 1-butyl-4-hydroxy-5-methoxy-2-naphthalenecarboxylic acid ethyl ester (2.4 g) and 5-chloro-1-phenyl-1H-tetrazole (1.55 g) in dimethylformamide (20 mL) and the reaction was stirred at room temperature for 1.25 hours. After the solvent was removed in vacuo, the residual material was partitioned between dichloromethane (150 mL) and water (75 mL). The separated aqueous layer was re-extracted with dichloromethane, and after each organic extract was washed with water, they were combined, dried (Na2SO4) and evaporated. Crystallization of the crude product from diethyl ether-hexane gave 2.15 g of 1-butyl-5-methoxy-4-[(1-phenyl-1H-tetrazole-5-yl)oxy]-2-naphthalenecarboxylic acid ethyl ester, mp 144°-146° C. A portion was recrystallized from the same solvents to provide the analytical sample, mp 145°-146° C. Anal. Calcd for C25H26N4O4 : C, 67.25; H, 5.87; N, 12.55 Found: C, 67.07; H, 5.99; N, 12.51

reactant | Potassium t-butoxide | 1.03 g | CC(C)([O-])C.[K+]
reactant | 1-butyl-4-hydroxy-5-methoxy-2-naphthalenecarboxylic acid ethyl ester | 2.4 g | C(C)OC(=O)C1=C(C2=CC=CC(=C2C(=C1)O)OC)CCCC | C18H22O4
reactant | 5-chloro-1-phenyl-1H-tetrazole | 1.55 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 1-butyl-5-methoxy-4-[(1-phenyl-1H-tetrazole-5-yl)oxy]-2-naphthalenecarboxylic acid ethyl ester | 2.15 g | C(C)OC(=O)C1=C(C2=CC=CC(=C2C(=C1)OC1=NN=NN1C1=CC=CC=C1)OC)CCCC | C25H26N4O4
